US04871775
1-[4-(2-Methoxyethyl)-phenoxy]-3-amino-3-methyl-butan-2-ol
19 g of 1-[4-(2-methoxyethyl)-phenoxy]-3-nitro-3-methyl-butan-2-ol are hydrogenated at 60° C. and under a pressure of 6 bar in a mixture of 250 ml of ethanol and 50 ml of glacial acetic acid in the presence of 4 g of palladium-on-charcoal (10% Pd). After the mixture has been filtered and the solvent has been evaporated off, the residue is rendered alkaline with 2N NaOH and the mixture is extracted with CH2Cl2. The organic phase is washed with water and dried with Na2SO4 to give, after evaporation, 15 g of the amine, which is converted into the hydrochloride with ethanolic hydrochloric acid. Melting point: 120°-122° C. (ethyl acetate).

reactant | 1-[4-(2-methoxyethyl)-phenoxy]-3-nitro-3-methyl-butan-2-ol | 19 g | COCCC1=CC=C(OCC(C(C)(C)[N+](=O)[O-])O)C=C1 | C14H21NO5
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 4 g | [Pd] | Pd
product | 1-[4-(2-Methoxyethyl)-phenoxy]-3-amino-3-methyl-butan-2-ol | COCCC1=CC=C(OCC(C(C)(C)N)O)C=C1 | C14H23NO3
